US08217065B2
(2-Chloro-pyridin-4-yl)-{5-[2-(2,6-dichloro-phenyl)-3H-benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-amine
Combine 4-amino-3-chloro-pyridine (78 mg, 0.606 mmol) and di-imidazol -1-yl-methanethione (108 mg, 0.606 mmol) in DMF (1.5 mL) and stir overnight. Add 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide (150 mg, 0.466 mmol) and DMF (1.5 mL). Heat to 80° C. for 1 hr. Add EDCI (179 mg, 0.932 mmol) and heat to 80° C. for 1 hr. Upon cooling, dilute the reaction with EtOAc (75 mL) and extract with water (15 mL). Dry the organic phase over Na2SO4 and concentrate. Purify the concentrate by reverse-phase HPLC (25-40% ACN/H2O+5 mM NH4OH) to afford the title compound as a yellow solid: 1H NMR (400 MHz, DMSO-d6) ppm 7.51 (d, J=4.17 Hz, 1H) 7.62-7.68 (m, 1 H) 7.70 (s, 1 H) 7.73 (dd, J=7.39, 1.96 Hz, 2 H) 7.75-7.87 (m, 1 H) 7.87-7.95 (m, 1 H) 8.07 (tautomer, br. s., 1 H) 8.19 (tautomer, br. s., 1 H) 8.29 (d, J=5.68 Hz, 1 H) 11.58 (br. s., 1 H) 13.32 (br. s., 1 H); MS m/z=456.9 (M+1 H).

reactant | 4-amino-3-chloro-pyridine | 0.606 mmol, 78 mg | NC1=C(C=NC=C1)Cl | C5H5ClN2
reactant | di-imidazol -1-yl-methanethione | 0.606 mmol, 108 mg | N1(C=NC=C1)C(=S)N1C=NC=C1 | C7H6N4S
reactant | 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide | 0.466 mmol, 150 mg | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C(=O)NN | C14H10Cl2N4O
reactant | EDCI | 0.932 mmol, 179 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
product | (2-Chloro-pyridin-4-yl)-{5-[2-(2,6-dichloro-phenyl)-3H-benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-amine | ClC1=NC=CC(=C1)NC=1OC(=NN1)C1=CC2=C(N=C(N2)C2=C(C=CC=C2Cl)Cl)C=C1 | C20H11Cl3N6O
